US05578720
Crystalline Loracarbef Monohydrate
Loracarbef ethanolate, (4.0 g, 97.1% potency), was slurried in 56 ml of water (containing 0.004 eq sodium, ~0.02 g editate) at 50° C. for 2 hours. Within 30 minutes the slurry became very thick, indicating conversion to monohydrate.

reactant | Loracarbef ethanolate | 4.0 g | C=1C=CC(=CC1)[C@H](C(=O)N[C@H]2[C@H]3CCC(=C(N3C2=O)C(=O)O)Cl)N.C(C)[O-]
reactant | water | 56 ml, ~0.02 g, 0.004 eq | O | H2O
product | Loracarbef Monohydrate | C1CC(=C(N2C1C(C2=O)NC(=O)[C@@H](C3=CC=CC=C3)N)C(=O)O)Cl.O | InChI=1S/C16H16ClN3O4.H2O/c17-9-6-7-10-12(15(22)20(10)13(9)16(23)24)19-14(21)11(18)8-4-2-1-3-5-8;/h1-5,10-12H,6-7,18H2,(H,19,21)(H,23,24);1H2/t10?,11-,12?;/m1./s1
